data/oMe_Silver.jsonl
{"reaction_id": "NR-103_1-S(=O)(=O)N(C)C_2-Br_3-S(=O)(=O)C_4-I_5-N1CCCCC1","level": "medium","name": "Hass-Bender Oxidation","reactants_smiles": ["BrCc1c(S(=O)(=O)N(C)C)c(Br)c(S(=O)(=O)C)c(I)c1N1CCCCC1","CC(C)[N+](=O)[O-]","[Na+].[O-]CC"],"products_smiles": ["O=Cc1c(S(=O)(=O)N(C)C)c(Br)c(S(=O)(=O)C)c(I)c1N1CCCCC1"],"conditions": "","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CC(C)=[N+]([O-])[O-]","step_weight": 0,"rationale": "The α-proton of the nitroalkane is acidic due to resonance stabilization of the resulting nitronate anion by the electron-withdrawing nitro group, allowing base-induced deprotonation."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[N+]([O-])(=C(C)C)OCc1c(S(=O)(=O)N(C)C)c(Br)c(S(=O)(=O)C)c(I)c1N1CCCCC1","step_weight": 0,"rationale": "The nitronate anion acts as a strong nucleophile, attacking the benzylic carbon where the bromide is a good leaving group, aided by benzylic resonance stabilization of the transition state."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O=Cc1c(S(=O)(=O)N(C)C)c(Br)c(S(=O)(=O)C)c(I)c1N1CCCCC1","step_weight": 0,"rationale": "Elimination of the nitro group occurs because the benzylic position can stabilize the developing carbonyl through conjugation with the aromatic ring, making aldehyde formation thermodynamically favorable."}],"description": "In the Hass-Bender oxidation, the nitroalkane is deprotonated to form a nitronate anion, which then displaces the benzylic bromide via nucleophilic substitution. Subsequent elimination of the nitro group yields the aldehyde, driven by resonance stabilization of the aromatic carbonyl product."}
{"reaction_id": "NR-245_1-C1CCCCC1_2-C(C)CC","level": "medium","name": "Swern Oxidation","reactants_smiles": ["C(O)(C1CCCCC1)(C(C)CC)","CS(C)=O","O=C(Cl)C(=O)Cl","CCN(CC)CC"],"products_smiles": ["C(=O)(C1CCCCC1)(C(C)CC)"],"conditions": "Low temperature (-78 °C)","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C[S+](C)OC([O-])(Cl)C(=O)Cl","step_weight": 0,"rationale": "DMSO oxygen attacks electrophilic carbonyl of oxalyl chloride due to strong polarization, forming a chlorosulfonium intermediate stabilized by resonance with sulfur."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C[S+](C)OC(=O)C(=O)Cl","step_weight": 0,"rationale": "Chloride leaves as CO2 is expelled, driven by formation of stable gaseous products and relief of electron density on sulfur."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C[S+](C)Cl","step_weight": 0,"rationale": "Further elimination of CO gas occurs, favored by thermodynamic stability of gaseous products and increased electrophilicity of the sulfonium species."},{"step": 4,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(C1CCCCC1)(C(C)CC)O[S](Cl)(C)C","step_weight": 0,"rationale": "Alcohol oxygen attacks the highly electrophilic sulfonium center, facilitated by low temperature preventing side reactions and by good leaving group potential of chloride."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C1CCCCC1)(C(C)CC)O[S](=C)C","step_weight": 0,"rationale": "Base-induced elimination removes a proton adjacent to oxygen, forming an alkoxysulfonium ylide stabilized by adjacent heteroatoms."},{"step": 6,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "C(=O)(C1CCCCC1)(C(C)CC)","step_weight": 0,"rationale": "The ylide undergoes a [2,3]-sigmatropic rearrangement, driven by relief of charge separation and formation of the stable carbonyl product."}],"description": "In the Swern oxidation, DMSO is activated by oxalyl chloride at low temperature to form an electrophilic sulfonium species. The alcohol attacks this intermediate, leading to an alkoxysulfonium salt. Subsequent elimination and rearrangement steps yield the aldehyde or ketone product under mild, non-aqueous conditions, avoiding overoxidation."}
